US08227601B2
To a solution of 4-[7-benzyl-2-(4-cyano-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3,5-dimethyl-benzonitrile (28 mg, 0.060 mmol) in 1,2-dichlorobenzene (1 mL) was added aluminum chloride (40 mg, 0.30 mmol). The reaction mixture was stirred at 160° C. for 45 min and cooled to room temperature. The mixture was poured into ice water and extracted with CH2Cl2 (2×10 mL). The combined organic solution was washed with brine (10 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=50:50) yielded 6 mg (27%) of 4-[2-(4-cyano-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3,5-dimethyl-benzonitrile as a tan solid.

reactant | 4-[7-benzyl-2-(4-cyano-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3,5-dimethyl-benzonitrile | 0.060 mmol, 28 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2OC2=C(C=C(C#N)C=C2C)C)NC2=CC=C(C=C2)C#N | C29H22N6O
reactant | aluminum chloride | 0.30 mmol, 40 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichlorobenzene | 1 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-[2-(4-cyano-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3,5-dimethyl-benzonitrile | 6 mg, 27% | C(#N)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)NC=C2)OC2=C(C=C(C#N)C=C2C)C | C22H16N6O
